US07259183B2
Preparation of 6-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amide 110
98 mg (0.55 mol) of 6-fluoro-1H-indol-7-carboxylic acid, 168 mg (0.50 mmol) of (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine and 105 mg (0.55 mmol) of EDC.HCl were dissolved in 5 ml 1,2-dichloro-ethane. The reaction mixture was stirred at rt over night and heated to 80° C. for 3 h. The solvent was evaporated and the residue was purified by column chromatography (20 g silica gel; heptane/EtOAc 4:1) to yield 108 mg (43%) product as a colorless viscous oil. MS (ISP) 497.2 (M+H)+.

reactant | 6-fluoro-1H-indol-7-carboxylic acid | 0.55 mol, 98 mg | FC1=CC=C2C=CNC2=C1C(=O)O | C9H6FNO2
reactant | (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine | 0.50 mmol, 168 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C19H23Cl2N
reactant | EDC.HCl | 0.55 mmol, 105 mg | CCN=C=NCCCN(C)C.Cl
solvent | 1,2-dichloro-ethane | 5 ml | ClCCCl | C2H4Cl2
product | 6-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amide | 108 mg, 43% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C(=CC=C3C=CNC23)F)CCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C28H27Cl2FN2O
